US08283354B2
(R)-Tetrahydrofuran-3-yl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate hydrochloride
To a solution of (R)-tetrahydrofuran-3-yl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate (0.085 g, 0.18 mmol) in 9 mL CH2Cl2 was added dropwise a 2.0 M HCl solution in ether (0.09 mL, 0.18 mmol). Ether (20 mL) was then added, leading to the precipitation of (R)-tetrahydrofuran-3-yl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate hydrochloride which was filtered and dried (85 mg, 95%). LC/MS: m/z 463.5 (M+H)+ at 2.33 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | (R)-tetrahydrofuran-3-yl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | 0.18 mmol, 0.085 g | O1C[C@@H](CC1)OC(NC[C@@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C26H30N4O4
reactant | HCl | 2.0 M | Cl | ClH
reactant | ether | 0.18 mmol, 0.09 mL | CCOCC | C4H10O
reactant | Ether | 20 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
product | (R)-Tetrahydrofuran-3-yl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate hydrochloride | Cl.O1C[C@@H](CC1)N(C(O)=O)C[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | InChI=1S/C26H30N4O4.ClH/c1-17-8-9-20-22(13-17)27-24(21-6-2-3-7-23(21)31)28-25(20)29-11-4-5-18(14-29)15-30(26(32)33)19-10-12-34-16-19;/h2-3,6-9,13,18-19,31H,4-5,10-12,14-16H2,1H3,(H,32,33);1H/t18-,19-;/m1./s1
